US04464531
Following a procedure similar to that of Example 1 but using 1.442 g of 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate and 4.37 g of methyl 1-bromo-1-deoxy-2,3,4-tri-O-acetyl-α-D-glucopyranuronate there was obtained methyl 1-O-[5-carbamoyl-1-(4-nitrobenzyl)imidazole-4-yl]-2,3,4-tri-O-acetyl-β-D-glucopyranuronate. The resulting product as such was used as the starting compound in the following Example 19.

reactant | 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate | 1.442 g | C(N)(=O)C1=C(NC=[N+]1CC1=CC=C(C=C1)[N+](=O)[O-])[O-] | C11H10N4O4
reactant | methyl 1-bromo-1-deoxy-2,3,4-tri-O-acetyl-α-D-glucopyranuronate | 4.37 g | Br[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC | C13H17BrO9
product | methyl 1-O-[5-carbamoyl-1-(4-nitrobenzyl)imidazole-4-yl]-2,3,4-tri-O-acetyl-β-D-glucopyranuronate | C(N)(=O)C1=C(N=CN1CC1=CC=C(C=C1)[N+](=O)[O-])O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC | C24H26N4O13
